### PR TITLE
[Merged by Bors] - feat: Abel's limit theorem

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
From https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Bounds.20on.20alternating.20convergent.20series/near/418770183

---

### CODE REVIEW

File: Mathlib/Analysis/Complex/AbelLimit.lean [hunk 1]
```diff
@@ -0,0 +1,253 @@
...
+  ext z
+  rw [stolzSet, Set.mem_setOf, Set.mem_empty_iff_false, iff_false, not_and, not_lt, ← sub_pos]
+  intro zn
+  calc
+    _ ≤ 1 * (1 - ‖z‖) := mul_le_mul_of_nonneg_right hM zn.le
+    _ = ‖(1 : ℂ)‖ - ‖z‖ := by rw [one_mul, norm_one]
+    _ ≤ _ := norm_sub_norm_le _ _
+
+/-- The intersection of `stolzSet M` with the real axis is `((1 - M) / (1 + M), 1)` for `1 < M`. -/
+theorem preimage_stolzSet_eq_Ioo (hM : 1 < M) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Complex/AbelLimit.lean:53]: I don't think this is needed.

File: Mathlib/Analysis/Complex/AbelLimit.lean [hunk 2]
```diff
@@ -0,0 +1,253 @@
...
+  · rw [Metric.mem_ball, dist_eq_norm]
+    norm_cast
+    rw [norm_real, Real.norm_eq_abs, abs_sub_lt_iff]
+    exact ⟨(sub_neg.mpr ub₂).trans εpos, ub₁⟩
+  · rw [stolzSet, Set.mem_setOf]
+    norm_cast
+    simp_rw [norm_real, Real.norm_eq_abs, abs_eq_self.mpr lb.le, ub₂, true_and]
+    replace ub₂ := sub_pos.mpr ub₂
+    rw [← one_mul |_|, abs_eq_self.mpr ub₂.le]
+    gcongr
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Complex/AbelLimit.lean:98]:
```suggestion
theorem nhdsWithin_lt_le_nhdsWithin_stolzSet (hM : 1 < M) :
    (𝓝[<] 1).map ofReal' ≤ 𝓝[stolzSet M] 1 := by
  rw [← tendsto_id']
  refine tendsto_map' <| tendsto_nhdsWithin_of_tendsto_nhds_of_eventually_within ofReal'
    (tendsto_nhdsWithin_of_tendsto_nhds <| ofRealCLM.continuous.tendsto' 1 1 rfl) <| ?_
  simp only [eventually_iff, norm_eq_abs, abs_ofReal, abs_lt, mem_nhdsWithin]
  refine ⟨Set.Ioo 0 2, isOpen_Ioo, by norm_num, fun x hx ↦ ?_⟩
  simp only [Set.mem_inter_iff, Set.mem_Ioo, Set.mem_Iio] at hx
  simp only [Set.mem_setOf_eq, stolzSet, ← ofReal_one, ← ofReal_sub, norm_eq_abs, abs_ofReal,
    abs_of_pos hx.1.1, abs_of_pos <| sub_pos.mpr hx.2]
  exact ⟨hx.2, one_mul (1 - x) ▸ mul_lt_mul_of_pos_right hM <| sub_pos.mpr hx.2⟩ 
```

File: Mathlib/Analysis/Complex/AbelLimit.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Analysis/Complex/AbelLimit.lean:53]: My idea was to use this to show `nhdsWithin_lt_le_nhdsWithin_stolzSet`. Will that approach work and if so will it be shorter than your golf?

Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Complex/AbelLimit.lean:53]: You don't need the precise statement on the intersection (note that I only used that the open interval from `0` to `1` is contained in any nonempty Stolz set in my suggested proof), so I doubt that using it will give you a shorter (in total) proof.

File: Mathlib/Analysis/Complex/AbelLimit.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Complex/AbelLimit.lean]: A golf for the last line:
```lean
  exact ⟨hx.2, lt_mul_left (sub_pos.mpr hx.2) hM⟩
```

File: Mathlib/Analysis/Complex/AbelLimit.lean [hunk 3]
```diff
@@ -0,0 +1,217 @@
...
+    (𝓝[<] 1).map ofReal' ≤ 𝓝[stolzSet M] 1 := by
+  rw [← tendsto_id']
+  refine tendsto_map' <| tendsto_nhdsWithin_of_tendsto_nhds_of_eventually_within ofReal'
+    (tendsto_nhdsWithin_of_tendsto_nhds <| ofRealCLM.continuous.tendsto' 1 1 rfl) <| ?_
+  simp only [eventually_iff, norm_eq_abs, abs_ofReal, abs_lt, mem_nhdsWithin]
+  refine ⟨Set.Ioo 0 2, isOpen_Ioo, by norm_num, fun x hx ↦ ?_⟩
+  simp only [Set.mem_inter_iff, Set.mem_Ioo, Set.mem_Iio] at hx
+  simp only [Set.mem_setOf_eq, stolzSet, ← ofReal_one, ← ofReal_sub, norm_eq_abs, abs_ofReal,
+    abs_of_pos hx.1.1, abs_of_pos <| sub_pos.mpr hx.2]
+  exact ⟨hx.2, one_mul (1 - x) ▸ mul_lt_mul_of_pos_right hM <| sub_pos.mpr hx.2⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Complex/AbelLimit.lean:62]:
```suggestion
  exact ⟨hx.2, lt_mul_left (sub_pos.mpr hx.2) hM⟩
```

File: Mathlib/Analysis/Complex/AbelLimit.lean [hunk 4]
```diff
@@ -0,0 +1,217 @@
...
+    gcongr
+    calc
+      ‖1 - z ^ n‖ ≤ ‖1‖ + ‖z ^ n‖ := norm_sub_le _ _
+      _ ≤ 1 + 1 := by
+        rw [norm_one, norm_pow, add_le_add_iff_left]
+        exact pow_le_one _ (norm_nonneg _) hz.le
+      _ = 2 := by norm_num
+  · simp_rw [mul_div_assoc]
+    convert (h.const_sub _).norm.mul_const _
+    simp
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Complex/AbelLimit.lean:105]:
```suggestion
  rw [← zero_mul (-1 / (z - 1))]
  refine Tendsto.mul ?_ ?_
  · simpa only [neg_zero, neg_sub] using (tendsto_sub_nhds_zero_iff.mpr h).neg
  · conv =>
      enter [1,n]
      rw [geom_sum_eq (by contrapose! hz; simp [hz]), sub_div, sub_eq_add_neg, ← neg_div]
    rw [← zero_add (-1 / (z - 1)), ← zero_div (z - 1)]
    refine Tendsto.add (Tendsto.div_const (tendsto_pow_atTop_nhds_0_of_norm_lt_1 hz) (z - 1)) ?_
    simp only [zero_mul, zero_add, tendsto_const_nhds_iff]
```
Maybe not that much better, but it avoids going via the norm.

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 5]
```diff
@@ -562,6 +570,34 @@ theorem not_summable_of_ratio_test_tendsto_gt_one {α : Type*} [SeminormedAddCom
   rwa [← le_div_iff (lt_of_le_of_ne (norm_nonneg _) h₁.symm)]
 #align not_summable_of_ratio_test_tendsto_gt_one not_summable_of_ratio_test_tendsto_gt_one
 
+section NormedDivisionRing
+
+variable [NormedDivisionRing α] [CompleteSpace α] {f : ℕ → α}
+
+/-- If a power series converges at `w`, it converges absolutely at all `z` of lesser norm. -/
+theorem summable_power_of_norm_lt {w z : α}
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/SpecificLimits/Normed.lean:578]: I think `powerSeries` in the name would be better (even though the statement does not mention terms of type `PowerSeries`).

Comment (Parcly-Taxel) [reply Mathlib/Analysis/SpecificLimits/Normed.lean:578]: That is a matter for the dependency #9955 (but I have applied the rename there).

File: Mathlib/Analysis/Complex/AbelLimit.lean [hunk 6]
```diff
@@ -0,0 +1,210 @@
...
+  · conv =>
+      enter [1, n]
+      rw [geom_sum_eq (by contrapose! hz; simp [hz]), sub_div, sub_eq_add_neg, ← neg_div]
+    rw [← zero_add (-1 / (z - 1)), ← zero_div (z - 1)]
+    apply Tendsto.add (Tendsto.div_const (tendsto_pow_atTop_nhds_0_of_norm_lt_1 hz) (z - 1))
+    simp only [zero_div, zero_add, tendsto_const_nhds_iff]
+
+/-- **Abel's limit theorem**. Given a power series converging at 1, the corresponding function
+is continuous at 1 when approaching 1 within a fixed Stolz set. -/
+theorem tendsto_tsum_power_nhdsWithin_stolzSet {M : ℝ} :
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Complex/AbelLimit.lean:104]: The suggestion to rename `power` to `powerSeries` also applies to this and the following two statements.

Comment (Parcly-Taxel) [reply Mathlib/Analysis/Complex/AbelLimit.lean:104]: We merge #9955 first and then I'll get to this.

Comment (Parcly-Taxel) [reply Mathlib/Analysis/Complex/AbelLimit.lean]: @MichaelStollBayreuth done.

File: Mathlib/Analysis/Complex/AbelLimit.lean [hunk 7]
```diff
@@ -0,0 +1,212 @@
...
+  simp only [eventually_iff, norm_eq_abs, abs_ofReal, abs_lt, mem_nhdsWithin]
+  refine' ⟨Set.Ioo 0 2, isOpen_Ioo, by norm_num, fun x hx ↦ _⟩
+  simp only [Set.mem_inter_iff, Set.mem_Ioo, Set.mem_Iio] at hx
+  simp only [Set.mem_setOf_eq, stolzSet, ← ofReal_one, ← ofReal_sub, norm_eq_abs, abs_ofReal,
+    abs_of_pos hx.1.1, abs_of_pos <| sub_pos.mpr hx.2]
+  exact ⟨hx.2, lt_mul_left (sub_pos.mpr hx.2) hM⟩
+
+end StolzSet
+
+variable {f : ℕ → ℂ} {l : ℂ} (h : Tendsto (fun n ↦ ∑ i in range n, f i) atTop (𝓝 l))
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/AbelLimit.lean:67]: Please move `h` to the statements, otherwise they're impossible to understand in isolation.

File: Mathlib/Analysis/Complex/AbelLimit.lean [hunk 8]
```diff
@@ -0,0 +1,212 @@
...
+import Mathlib.Analysis.Complex.Basic
+import Mathlib.Analysis.SpecificLimits.Normed
+
+/-!
+# Abel's limit theorem
+
+If a real or complex power series for a function has radius of convergence 1 and the series is only
+known to converge conditionally at 1, Abel's limit theorem gives the value at 1 as the limit of the
+function at 1 from the left. "Left" for complex numbers means "within a Stolz set", a subset of the
+open unit disc with 1 on its boundary.
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/AbelLimit.lean:15]: Is there a reason why you use Stolz sets instead of the simpler cone of angle \le \theta < pi/2 based at 1? This would be more geometric and easier to use in practice.

Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/Complex/AbelLimit.lean:15]: IIRC, the condition comes up naturally in the proof. One could add a variant using the cone after the fact, though.

File: Mathlib/Analysis/Complex/AbelLimit.lean (hunk 7 above)
Comment (Parcly-Taxel) [reply Mathlib/Analysis/Complex/AbelLimit.lean]: Done.

File: Mathlib/Analysis/Complex/AbelLimit.lean (hunk 8 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Complex/AbelLimit.lean:15]: @Parcly-Taxel can you address this comment before you mark `awaiting-review` again?

Comment (Parcly-Taxel) [reply Mathlib/Analysis/Complex/AbelLimit.lean:15]: @j-loreaux I don't know how to do it.

Comment (Parcly-Taxel) [reply Mathlib/Analysis/Complex/AbelLimit.lean:15]: @sgouezel I don't know how to change to the cone filter without importing all of Euclidean geometry. There's no simple way to do it.

Comment (Parcly-Taxel) [reply Mathlib/Analysis/Complex/AbelLimit.lean]: @j-loreaux yeah, done.

**Comment by MichaelStollBayreuth** [comment]
See [here](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Bounds.20on.20alternating.20convergent.20series/near/422125092) on Zulip for a perhaps more direct way of relating cones and Stolz sets.

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM, but since it is mostly the code I proposed myself, somebody else should have a look.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
